US07067517B2
Methyl-phenyl-carbamic acid 5-(4-dimethylamino-phenyl)-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-5-(4-dimethylaminophenyl)-pyrazole and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (27%, crystals).

reactant | 1-hydroxy-5-(4-dimethylaminophenyl)-pyrazole | ON1N=CC=C1C1=CC=C(C=C1)N(C)C | C11H13N3O
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 5-(4-dimethylamino-phenyl)-pyrazol-1-yl ester | CN(C1=CC=C(C=C1)C1=CC=NN1OC(N(C1=CC=CC=C1)C)=O)C | C19H20N4O2
